US07417060B2
To a suspension of 4-bromo-2-(isopropylamino)benzoic acid (448 mg) and potassium carbonate (480 mg) in N,N-dimethylformamide (9 ml) was added methyl iodide (162 μl) at room temperature and the mixture was stirred at the same temperature for 1 hour. To the mixture was added water (20 ml) and extracted with mixed solvent (hexane/ethyl acetate=1/1). The organic layer was washed with brine, dried over magnesium sulfate and evaporated to give methyl 4-bromo-2-(isopropylamino)benzoate (443 mg).

reactant | 4-bromo-2-(isopropylamino)benzoic acid | 448 mg | BrC1=CC(=C(C(=O)O)C=C1)NC(C)C | C10H12BrNO2
reactant | potassium carbonate | 480 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 162 μl | CI | CH3I
reactant | water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
product | methyl 4-bromo-2-(isopropylamino)benzoate | 443 mg | BrC1=CC(=C(C(=O)OC)C=C1)NC(C)C | C11H14BrNO2
